US07855220B2
N-[4-(Thiazol-2-ylsulfamoyl)-naphthalen-1-yl]-acetamide (0.48 g, 1.38 mmol) was dissolved in 0.5 M NaOMe (20 ml) and heated at 70° C. for 16 h. After the solvents were evaporated, a 2:1 EtOH:H2O mixture (6 ml) and a few drops of AcOH were added. While stirring the mixture, a precipitate formed which was filtered and dried under vacuum to give 4-amino-naphthalene-1-sulfonic acid thiazol-2-ylamide (0.31 g, 73%). LC/MS (10-99% CH3CN), M/Z: M+1 obs=306.0; tR=2.04 min.

reactant | N-[4-(Thiazol-2-ylsulfamoyl)-naphthalen-1-yl]-acetamide | 1.38 mmol, 0.48 g | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C)=O | C15H13N3O3S2
solvent | NaOMe | 0.5 M, 20 ml | C[O-].[Na+]
product | 4-amino-naphthalene-1-sulfonic acid thiazol-2-ylamide | 0.31 g, 73% | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)N | C13H11N3O2S2
